US05882819
Iodine of 5 mmol is solved in methanol of 30 ml in an argon atmosphere. Into the solution thus formed, a solution of 5-mercapto-1-methyltetrazole of 10 mmol and sodium methoxide of 5 mmol dissolved in methanol is dropped slowly. Thereafter, the solution thus formed is stirred for three hours, and cooled to -60° C. Then, the precipitate thus created is separated by filtration. The precipitate is dried in a decompressing atmosphere, and recrystallized three times by ethanol to provide 5,5'-dithiobis (1-methyltetrazole).

reactant | Iodine | II | I2
reactant | 5-mercapto-1-methyltetrazole | SC1=NN=NN1C | C2H4N4S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 5,5'-dithiobis (1-methyltetrazole) | CN1N=NN=C1SSC1=NN=NN1C | C4H6N8S2
